US20010016659A1
Entry 18: According to Method A2, Step 4, 5-amino-2-methylphenol was reacted with 4-chloro-N-methyl-2-pyridinecarboxamide, which had been synthesized according to Method A2, Step 3b, to give 3-(2-(N-methylcarbamoyl)-4-pyridyloxy)-4-methylaniline. 5-(Trifluoromethyl)-2-methoxyaniline was converted into 5-(trifluoromethyl)-2-methoxyphenyl isocyanate according to Method B1. 5-(Trifluoromethyl)-2-methoxyphenyl isocyanate was reacted with 3-(2-(N-methylcarbamoyl)-4-pyridyloxy)-4-methylaniline according to Method C1a to afford the urea.

reactant | 5-amino-2-methylphenol | NC=1C=CC(=C(C1)O)C | C7H9NO
reactant | 4-chloro-N-methyl-2-pyridinecarboxamide | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
product | 3-(2-(N-methylcarbamoyl)-4-pyridyloxy)-4-methylaniline | CNC(=O)C1=NC=CC(=C1)OC=1C=C(N)C=CC1C | C14H15N3O2
